US05576324
5-Hydroxy-6-(trans-4-hydroxy-2-butenyl)-8-methylcarbostyril (2.6 g) was suspended in 1,2-dichloroethane (50 ml). Boron trifluoride.ether complex (7.5 ml) was added to the suspension, and the mixture was stirred at 60° C. for 5 hours. After the reaction, saturated sodium bicarbonate (50 ml) was added thereto, followed by stirring at room temperature for 1.5 hours. Water was added thereto and extraction was performed with chloroform. The extract was dried and condensed under reduced pressure, and the residue was recrystallized from a solvent mixture of chloroform-ether. As a result, 2.35 g of 5-methyl-2,3,6,7-tetrahydro-2-vinylfuro[2,3-f]quinoline-7-one was obtained as pale brown powdery crystals (97.6%).

reactant | 5-Hydroxy-6-(trans-4-hydroxy-2-butenyl)-8-methylcarbostyril | 2.6 g | OC1=C2C=CC(NC2=C(C=C1C\C=C\CO)C)=O | C14H15NO3
reactant | Boron trifluoride | B(F)(F)F | BF3
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
reactant | Water | O | H2O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 5-methyl-2,3,6,7-tetrahydro-2-vinylfuro[2,3-f]quinoline-7-one | 2.35 g | CC=1C=C2C(=C3C=CC(NC13)=O)OC(C2)C=C | C14H13NO2
